US09063126B2
2-Methyl-5-((trimethylsilyl)ethynyl)pyrimidine
Isopropyl acetate (30 mL) was added to a mixture of 5-bromo-2-methylpyrimidine (3 g, 17.3 mmol), copper(I) iodide (0.066 g, 0.35 mmol) and bis(triphenylphosphine)palladium (II) dichloride (0.243 g, 0.35 mmol) in a 100 mL 3-neck flask equipped with a condenser. The resulting solution was sparged with a stream of nitrogen for 15 minutes and kept under nitrogen during further manipulations. Trimethylsilylacetylene (3.12 mL, 22.5 mmol) and diisopropylamine (4.90 mL, 34.7 mmol) were added successively to the reaction solution, and the mixture was stirred at room temperature for 30 minutes. The dark mixture was heated at 60° C. for 15 hours, then cooled to room temperature, diluted with isopropyl acetate (15 mL) and filtered through diatomaceous earth. The filtrate was washed successively with saturated aqueous NaHCO3 (2×25 mL), 10% aqueous Na2S2O3 (20 mL) and brine, then dried (MgSO4) and concentrated under vacuum. The dark residue was purified by flash chromatography on silca gel (hexanes-ethyl acetate, gradient from 100:0-70:30) to provide the title compound: 1H NMR (300 MHz, CDCl3) δ ppm 0.27 (s, 9H), 2.74 (s, 3H), 8.68 (s, 2H).

reactant | 5-bromo-2-methylpyrimidine | 17.3 mmol, 3 g | BrC=1C=NC(=NC1)C | C5H5BrN2
reactant | Trimethylsilylacetylene | 22.5 mmol, 3.12 mL | C[Si](C)(C)C#C | C5H10Si
reactant | diisopropylamine | 34.7 mmol, 4.90 mL | C(C)(C)NC(C)C | C6H15N
solvent | isopropyl acetate | 15 mL | C(C)(=O)OC(C)C | C5H10O2
catalyst | copper(I) iodide | 0.35 mmol, 0.066 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium | 0.35 mmol, 0.243 g | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
solvent | Isopropyl acetate | 30 mL | C(C)(=O)OC(C)C | C5H10O2
product | 2-Methyl-5-((trimethylsilyl)ethynyl)pyrimidine | CC1=NC=C(C=N1)C#C[Si](C)(C)C | C10H14N2Si
